US09227985B2
5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxylic acid (0.044 g. 0.15 mmol) in N,N-dimethylformamide (3 mL) was combined with N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate [Oakwood #: 023926](160 mg, 0.42 mmol) and N,N-diisopropylethylamine (100 μL, 0.6 mmol) at room temperature. 3.0 M methylamine in ethanol (0.2 mL, 0.6 mmol) was added, and the resulting mixture was stirred for 1 h, at which time the mixture was partitioned between water and ethyl acetate. The organic layer was washed with 1 N HCl, washed with brine, dried over magnesium sulfate, filtered, and concentrated to give crude N-methyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide solid (0.020 g. 30%). LCMS calculated for C15H15N4O4 (M+H)+: m/z=315.1. found: 315.0.

reactant | 5-Nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxylic acid | 0.15 mmol, 0.044 g | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)(C(=O)O)C2=NC=CC=C2 | C14H11N3O5
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.42 mmol, 160 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.6 mmol, 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methylamine | 3.0 M | CN | CH5N
reactant | ethanol | 0.6 mmol, 0.2 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-methyl-5-nitro-3-pyridin-2-yl-3,4-dihydro-2H-1,4-benzoxazine-3-carboxamide | 0.020 g, 30% | CNC(=O)C1(COC2=C(N1)C(=CC=C2)[N+](=O)[O-])C2=NC=CC=C2 | C15H14N4O4
